US04420424
(B) H-Glu-Val-Val-OBut
31 g of H-Val-Val-OBut.HCl are subjected, analogously to Example 21 (B), to a condensation reaction with 37 g of Z-Glu(OBzl)-OH in dimethylformamide in the presence of 13.5 g of HOBt and 12.8 ml of N-ethylmorpholine, by means of 22 g of DCC. After working up analogously to this example, catalytic hydrogenation is carried out as described in Example 21 (C). The compound insoluble in ether is isolated and is a single substance according to thin layer chromatography. Yield 51 g.

reactant | H-Val-Val-OBut.HCl | 31 g | N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C.Cl
reactant | Z-Glu(OBzl)-OH | 37 g | N([C@@H](CCC(OCC1=CC=CC=C1)=O)C(=O)O)C(=O)OCC1=CC=CC=C1 | C20H21NO6
reactant | HOBt | 13.5 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-ethylmorpholine | 12.8 ml | C(C)N1CCOCC1 | C6H13NO
reactant | DCC | 22 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | H-Glu-Val-Val-OBut | N[C@@H](CCC(O)=O)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C | C19H35N3O6
